US07642361B2
4-Cyano-5-methylsulfanyl-3-(4-vinyl-phenyl)-thiophene-2-carboxylic acid ethyl ester
Combine 4-cyano-3-(4-iodo-phenyl)-5-methylsulfanyl-thiophene-2-carboxylic acid ethyl ester (0.1 g, 1.0 eq) in THF (5.0 mL) and stir. Add Pd(PPh3)4 (1%), tributyl-vinyl-stannane (0.9 eq) and LiCl. Reflux the mixture overnight. Concentrate to dryness. Wash with hexane to remove excess of stannane. Add water and filter the precipitate to provide the title compound (0.04 g, Yield 38%). MS (ES+, m/e): 330 (M+1).

reactant | 4-cyano-3-(4-iodo-phenyl)-5-methylsulfanyl-thiophene-2-carboxylic acid ethyl ester | 0.1 g, 1.0 eq | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)I)C#N)SC | C15H12INO2S2
reactant | tributyl-vinyl-stannane | 0.9 eq | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | LiCl | [Li+].[Cl-]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Cyano-5-methylsulfanyl-3-(4-vinyl-phenyl)-thiophene-2-carboxylic acid ethyl ester | 0.04 g, Yield 38% | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C=C)C#N)SC | C17H15NO2S2
